US04322471
Triphenylmethane Type Leuco Pigments
3,3-Bis-(p-dimethylaminophenyl)phthalide, 3,3-bis-(p-dimethylaminophenyl)-6-dimethylaminophthalide, 3,3-bis-(p-dimethylaminophenyl)-6-diethylaminophthalide, 3,3-bis-(p-dimethylaminophenyl)-6-methoxyphthalide, 4-hydroxy-4'-dimethylaminotriphenylmethane lactone and 4,4'-bis-dihydroxy-3,3'-bis-diaminotriphenylmethane lactone.

reactant | 3,3-Bis-(p-dimethylaminophenyl)phthalide | CN(C1=CC=C(C=C1)C1(OC(=O)C2=CC=CC=C12)C1=CC=C(C=C1)N(C)C)C | C24H24N2O2
reactant | 3,3-bis-(p-dimethylaminophenyl)-6-dimethylaminophthalide | CN(C1=CC=C(C=C1)C1(OC(=O)C2=CC(=CC=C12)N(C)C)C1=CC=C(C=C1)N(C)C)C | C26H29N3O2
reactant | 3,3-bis-(p-dimethylaminophenyl)-6-diethylaminophthalide | CN(C1=CC=C(C=C1)C1(OC(=O)C2=CC(=CC=C12)N(CC)CC)C1=CC=C(C=C1)N(C)C)C | C28H33N3O2
reactant | 3,3-bis-(p-dimethylaminophenyl)-6-methoxyphthalide | CN(C1=CC=C(C=C1)C1(OC(=O)C2=CC(=CC=C12)OC)C1=CC=C(C=C1)N(C)C)C | C25H26N2O3
product | Triphenylmethane | C1(=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16
